US07807709B2
b. Cyclopropyl-(tetrahydro-pyran-2-ylmethyl)-amine
A mixture of toluene-4-sulfonic acid tetrahydro-pyran-2-ylmethyl ester (500 mg, 1.85 mmol) and cyclopropylamine (2 mL, 15 mmol) is heated overnight at 110° C. in a sealed tube. The crude mixture is concentrated and taken up in CH2Cl2. Water is added, the layers are separated and the aqueous one back extracted twice with CH2Cl2. The combined organic extracts are washed with brine, dried over Na2SO4, filtered and concentrated. TLC, Rf (CH2Cl2/MeOH 95:5)=0.3, MS (LC-MS): 156.2 [M+H]+.

reactant | toluene-4-sulfonic acid tetrahydro-pyran-2-ylmethyl ester | 1.85 mmol, 500 mg | O1C(CCCC1)COS(=O)(=O)C1=CC=C(C=C1)C | C13H18O4S
reactant | cyclopropylamine | 15 mmol, 2 mL | C1(CC1)N | C3H7N
product | Cyclopropyl-(tetrahydro-pyran-2-ylmethyl)-amine | C1(CC1)NCC1OCCCC1 | C9H17NO
